US08957074B2
Following general amide formation method 1, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid (400 mg, 1.01 mmol) was combined with 3,8-Diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (250 mg, 1.18 mmol. 1.1 eq) which yielded 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester after work up and was immediately used in next step without further purification.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | 1.01 mmol, 400 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 3,8-Diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.18 mmol, 250 mg, 1.1 eq | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C31H40N8O4
